US07423157B2
To a solution of 2-hydrazino-1H-benzimidazole (5.0 g, 33.7 mmol) in ethanol (30 ml) is added sequentially triethylamine (5 ml, 33.7 mmol) and N-cyanoformimidic acid ethyl ester (3.3 g, 33.7 mmol) with cooling. After stirring for 2 hours at 0° C. the resulting precipitate is filtered with suction and dried to give 3-amino-2-(1H-benzimidazol-2-yl)-1,2,4-triazole. 1H-NMR (400 MHz, d6-DMSO): 13.0 (s, 1H); 7.77 (s,1H); 7.70 (m, 2H); 7.50 (m, 2H); 7.20 (s, 2H).

reactant | 2-hydrazino-1H-benzimidazole | 33.7 mmol, 5.0 g | N(N)C1=NC2=C(N1)C=CC=C2 | C7H8N4
reactant | triethylamine | 33.7 mmol, 5 ml | C(C)N(CC)CC | C6H15N
reactant | N-cyanoformimidic acid ethyl ester | 33.7 mmol, 3.3 g | C(C)OC=NC#N | C4H6N2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-amino-2-(1H-benzimidazol-2-yl)-1,2,4-triazole | NC=1N(N=CN1)C1=NC2=C(N1)C=CC=C2 | C9H8N6
